US08791132B2
9-Methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6-diaza-cyclopenta[c]fluorene (200 mg, 0.88 mmol) was dissolved in DMF (3 ml), sodium hydride (106 mg, 2.65 mmol) was added and the mixture was stirred at RT for 15 min. 3-Oxiranyl-pyridine (214 mg, 1.76 mmol) was added dropwise into the reaction mixture and the mixture was stirred at RT for 3 h. The reaction was monitored by TLC and LCMS. After consumption of starting material, the reaction mixture was quenched with ice cold water (20 mL) and extracted with EtOAc (3×30 mL). The combined organic layer was washed with water (2×60 mL), dried over anhydrous sodium sulfate and concentrated to obtain the crude product, which was purified by reverse phase chromatography to obtain 60 mg of 2-(9-Methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c]fluoren-6-yl)-1-pyridin-3-yl-ethanol as the TFA salt. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.7 (d, 1H), 8.53 (s, 1H), 8.4 (d, 1H), 7.85 (t, 1H), 7.25 (s, 1H), 7.08 (t, 1H),6.9 (d, 1H), 5.28 (t, 1H), 5.03 (t, 1H), 4.42 (s, 2H), 3.76 (m, 1H), 3.6 (m, 2H), 3.4 (m, 1H), 3.2 (m, 2H),2.7 (m, 1H), 2.38 (s, 3H), 2.2 (m, 3H). Separation by chiral HPLC provides diastereomers II-131a-d.

reactant | 9-Methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6-diaza-cyclopenta[c]fluorene | 0.88 mmol, 200 mg | CC1=CC=2C=3C4N(CCC3NC2C=C1)CCC4 | C15H18N2
reactant | sodium hydride | 2.65 mmol, 106 mg | [H-].[Na+]
reactant | 3-Oxiranyl-pyridine | 1.76 mmol, 214 mg | O1C(C1)C=1C=NC=CC1 | C7H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-(9-Methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c]fluoren-6-yl)-1-pyridin-3-yl-ethanol | 60 mg | CC1=CC=2C=3C4N(CCC3N(C2C=C1)CC(O)C=1C=NC=CC1)CCC4 | C22H25N3O
